### PR TITLE
[Merged by Bors] - feat(Fin): lt_sub_iff, rev_{add,sub}

### PR DESCRIPTION
**Pull request by pechersky**
Helper lemmas in digit expansions

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Group/Fin.lean [hunk 1]
```diff
@@ -123,9 +123,55 @@ lemma sub_one_lt_iff {k : Fin (n + 1)} : k - 1 < k ↔ 0 < k :=
   not_iff_not.1 <| by simp only [lt_def, not_lt, val_fin_le, le_sub_one_iff, le_zero_iff]
 #align fin.sub_one_lt_iff Fin.sub_one_lt_iff
 
+lemma lt_sub_iff {n : ℕ} {a b : Fin n} : a < a - b ↔ a < b := by
```
Comment (eric-wieser) [inline Mathlib/Algebra/Group/Fin.lean:126]: Is `a - b < a ↔ b < a` also true? If so, it would be nice to have both.

File: Mathlib/Algebra/Group/Fin.lean [hunk 2]
```diff
@@ -123,9 +123,55 @@ lemma sub_one_lt_iff {k : Fin (n + 1)} : k - 1 < k ↔ 0 < k :=
...
+  cases' n with n
+  · exact a.elim0
+  by_cases h: a < b
```
Comment (Ruben-VandeVelde) [inline Mathlib/Algebra/Group/Fin.lean:129]:
```suggestion
  by_cases h : a < b
```
but `constructor <;> intro h` might be more typical

File: Mathlib/Algebra/Group/Fin.lean [hunk 3]
```diff
@@ -123,9 +123,55 @@ lemma sub_one_lt_iff {k : Fin (n + 1)} : k - 1 < k ↔ 0 < k :=
...
+  · simp only [h, iff_true]
+    rw [lt_iff_val_lt_val, sub_def]
+    simp only
+    obtain ⟨k, hk⟩ := Nat.exists_eq_add_of_lt b.is_lt
+    have : n + 1 - b = k + 1 := by
+      simp_rw [hk]
```
Comment (Ruben-VandeVelde) [inline Mathlib/Algebra/Group/Fin.lean:135]: Why `simp_rw`?

Comment (pechersky) [reply Mathlib/Algebra/Group/Fin.lean:135]: Due to `rw` trying to rewrite inside `b : Fin (n + 1)`, and getting a `motive is not correct` error. Left a comment

File: Mathlib/Algebra/Group/Fin.lean (hunk 2 above)
Comment (pechersky) [reply Mathlib/Algebra/Group/Fin.lean:129]: Rearranged to use constructor

File: Mathlib/Algebra/Group/Fin.lean (hunk 1 above)
Comment (pechersky) [reply Mathlib/Algebra/Group/Fin.lean:126]: Unfortunately, not true: `a := 1, b := 1; 0 < 1`  but `1 = 1`.

File: Mathlib/Algebra/Group/Fin/Basic.lean [hunk 4]
```diff
@@ -107,9 +107,59 @@ lemma lt_sub_one_iff {k : Fin (n + 2)} : k < k - 1 ↔ k = 0 := by
...
+    rw [lt_iff_val_lt_val, sub_def]
+    simp only
+    obtain ⟨k, hk⟩ := Nat.exists_eq_add_of_lt b.is_lt
+    have : n + 1 - b = k + 1 := by
+      simp_rw [hk] -- simp_rw because, otherwise, rw tries to rewrite inside `b : Fin (n + 1)`
+      rw [Nat.add_assoc, Nat.add_sub_cancel_left]
+    rw [this, Nat.mod_eq_of_lt]
+    · simp
+    · refine hk.ge.trans_lt' ?_
+      simp [Nat.add_assoc, h, Nat.add_comm, Nat.add_left_comm]
```
Comment (faenuccio) [inline Mathlib/Algebra/Group/Fin/Basic.lean:134]:
```suggestion
    cases' n with n
  · exact a.elim0
  constructor
  · contrapose!
    intro h
    obtain ⟨l, hl⟩ := Nat.exists_eq_add_of_le (Fin.not_lt.mp h)
    simpa only [Fin.not_lt, le_iff_val_le_val, sub_def, hl, ← Nat.add_assoc, Nat.add_mod_left,
      Nat.mod_eq_of_lt, Nat.sub_add_cancel b.is_lt.le] using
        (le_trans (mod_le _ _) (le_add_left _ _))
  · intro h
    rw [lt_iff_val_lt_val, sub_def]
    simp only
    obtain ⟨k, hk⟩ := Nat.exists_eq_add_of_lt b.is_lt
    have : n + 1 - b = k + 1 := by
      simp_rw [hk, Nat.add_assoc, Nat.add_sub_cancel_left] 
      -- simp_rw because, otherwise, rw tries to rewrite inside `b : Fin (n + 1)`
    rw [this, Nat.mod_eq_of_lt (hk.ge.trans_lt' ?_), Nat.lt_add_left_iff_pos] <;>
    omega
```

**Review by faenuccio — COMMENTED** [review]
I suggested a very minor golfing, apart from this LGTM.

**Comment by faenuccio** [comment]
Thanks!

**Comment by faenuccio** [comment]
maintainer merge

File: Mathlib/Algebra/Group/Fin/Basic.lean [hunk 5]
```diff
@@ -107,9 +107,53 @@ lemma lt_sub_one_iff {k : Fin (n + 2)} : k < k - 1 ↔ k = 0 := by
...
+      simp_rw [hk, Nat.add_assoc, Nat.add_sub_cancel_left]
+      -- simp_rw because, otherwise, rw tries to rewrite inside `b : Fin (n + 1)`
+    rw [this, Nat.mod_eq_of_lt (hk.ge.trans_lt' ?_), Nat.lt_add_left_iff_pos] <;>
+    omega
+
+lemma sub_le_iff {n : ℕ} {a b : Fin n} : a - b ≤ a ↔ b ≤ a := by
+  rw [← not_iff_not, Fin.not_le, Fin.not_le, lt_sub_iff]
+
+@[simp]
+lemma lt_one_iff {n : ℕ} [hn : NeZero n] (x : Fin (n + 1)) : x < 1 ↔ x = 0 := by
```
Comment (semorrison) [inline Mathlib/Algebra/Group/Fin/Basic.lean:134]: This is a weird hybrid of hypotheses. Does `x : Fin (n + 2)` suffice?

File: Mathlib/Algebra/Group/Fin/Basic.lean [hunk 6]
```diff
@@ -107,9 +107,53 @@ lemma lt_sub_one_iff {k : Fin (n + 2)} : k < k - 1 ↔ k = 0 := by
...
+  cases' n
+  · simp at hn
+  simp [Fin.lt_iff_val_lt_val, Fin.ext_iff]
```
Comment (jcommelin) [inline Mathlib/Algebra/Group/Fin/Basic.lean:137]:
```suggestion
lemma lt_one_iff {n : ℕ} (x : Fin (n + 2)) : x < 1 ↔ x = 0 := by
  simp [Fin.lt_iff_val_lt_val, Fin.ext_iff]
```
does indeed work

File: Mathlib/Algebra/Group/Fin/Basic.lean [hunk 7]
```diff
@@ -107,9 +107,51 @@ lemma lt_sub_one_iff {k : Fin (n + 2)} : k < k - 1 ↔ k = 0 := by
...
 
+lemma rev_add (a b : Fin n) : rev (a + b) = rev a - b := by
+  cases' n
+  · exact a.elim0
+  rw [← last_sub, ← last_sub, sub_add_eq_sub_sub]
+
+lemma rev_sub (a b : Fin n) : rev (a - b) = rev a + b := by
+  cases' n
+  · exact a.elim0
+  rw [← last_sub, ← last_sub, sub_sub_eq_add_sub, add_sub_right_comm]
```
Comment (urkud) [inline Mathlib/Algebra/Group/Fin/Basic.lean:150]: Not tested but should work AFAICT.
```suggestion
  rw [rev_eq_iff, rev_add, rev_rev]
```

File: Mathlib/Algebra/Group/Fin/Basic.lean [hunk 8]
```diff
@@ -107,9 +107,51 @@ lemma lt_sub_one_iff {k : Fin (n + 2)} : k < k - 1 ↔ k = 0 := by
...
+
+lemma add_lt_left_iff {n : ℕ} {a b : Fin n} : a + b < a ↔ rev b < a := by
+  cases' n
```
Comment (urkud) [inline Mathlib/Algebra/Group/Fin/Basic.lean:153]: Why do you need to special case `n = 0` here?

File: Mathlib/Algebra/Group/Fin/Basic.lean [hunk 9]
```diff
@@ -107,9 +107,51 @@ lemma lt_sub_one_iff {k : Fin (n + 2)} : k < k - 1 ↔ k = 0 := by
 lemma sub_one_lt_iff {k : Fin (n + 1)} : k - 1 < k ↔ 0 < k :=
   not_iff_not.1 <| by simp only [lt_def, not_lt, val_fin_le, le_sub_one_iff, le_zero_iff]
 
+lemma lt_sub_iff {n : ℕ} {a b : Fin n} : a < a - b ↔ a < b := by
```
Comment (urkud) [inline Mathlib/Algebra/Group/Fin/Basic.lean:110]: Should it be a `simp` lemma?

File: Mathlib/Algebra/Group/Fin/Basic.lean [hunk 10]
```diff
@@ -107,9 +107,51 @@ lemma lt_sub_one_iff {k : Fin (n + 2)} : k < k - 1 ↔ k = 0 := by
...
+    rw [lt_iff_val_lt_val, sub_def]
+    simp only
+    obtain ⟨k, hk⟩ := Nat.exists_eq_add_of_lt b.is_lt
+    have : n + 1 - b = k + 1 := by
+      simp_rw [hk, Nat.add_assoc, Nat.add_sub_cancel_left]
+      -- simp_rw because, otherwise, rw tries to rewrite inside `b : Fin (n + 1)`
+    rw [this, Nat.mod_eq_of_lt (hk.ge.trans_lt' ?_), Nat.lt_add_left_iff_pos] <;>
+    omega
+
+lemma sub_le_iff {n : ℕ} {a b : Fin n} : a - b ≤ a ↔ b ≤ a := by
```
Comment (urkud) [inline Mathlib/Algebra/Group/Fin/Basic.lean:130]: Same here.

**Comment by urkud** [comment]
I left some optional suggestions, otherwise LGTM. Thanks!
bors d+
